US07713452B2
A mixture of 2,7-dibromo-9,9-dipropyl-3-methoxyfluorene (83 g, 0.19 mol), and copper(I) cyanide (50 g, 0.56 mol) in anhydrous dimethylformamide (70.0 mL) was stirred under reflux and argon for 18 hours. The reaction was allowed to cool to 90° C. and treated with a solution of potassium cyanide (100 g) in water (350 mL). The resulting mixture was stirred rapidly for a further 4.5 hours. The granular product was collected by filtration, crushed, washed with water and dried. The tan colored solid was extracted from a soxhlet with methylcyclohexane. Cooling and seeding of the methylcyclohexane extract afforded 2,7-dicyano-9,9-dipropyl-3-methoxyfluorene upon filtration (62.6 g; yield 99%).

reactant | 2,7-dibromo-9,9-dipropyl-3-methoxyfluorene | 0.19 mol, 83 g | BrC1=CC=2C(C3=CC(=CC=C3C2C=C1OC)Br)(CCC)CCC | C20H22Br2O
reactant | copper(I) cyanide | 0.56 mol, 50 g | [Cu]C#N
reactant | potassium cyanide | 100 g | [C-]#N.[K+]
solvent | dimethylformamide | 70.0 mL | CN(C=O)C | C3H7NO
solvent | water | 350 mL | O | H2O
product | 2,7-dicyano-9,9-dipropyl-3-methoxyfluorene | yield 99% | C(#N)C1=CC=2C(C3=CC(=CC=C3C2C=C1OC)C#N)(CCC)CCC | C22H22N2O
